US05017595
54 g of trimethylsulfonium methylsulfate and 120 ml of sodium hydroxide solution (50% strength by weight) are added to a solution of 84 g of 4-chlorophenyl β-methyl-2-chlorophenylstyryl ketone in 300 ml of methylene chloride. The reaction mixture is stirred for 12-15 hours at room temperature (20° C.), after which 300 ml of water are added to the solution and the organic phase is separated off. The organic phase isolated is washed twice with water, dried over sodium sulfate and evaporated down, 73 g (83%) of 2-(4-chlorophenyl)-2-(1-methyl-2-[2-chlorophenyl]-ethenyl)-oxirane being obtained.

reactant | trimethylsulfonium methylsulfate | 54 g | COS(=O)(=O)[O-].C[S+](C)C
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
reactant | 4-chlorophenyl β-methyl-2-chlorophenylstyryl ketone | 84 g | CC(=C(C1=C(C=CC=C1)Cl)C(=O)C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C22H16Cl2O
reactant | water | 300 ml | O | H2O
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-chlorophenyl)-2-(1-methyl-2-[2-chlorophenyl]-ethenyl)-oxirane | 73 g, 83% | ClC1=CC=C(C=C1)C1(OC1)C(=CC1=C(C=CC=C1)Cl)C | C17H14Cl2O
